US07423030B2
46.4. 7-Methoxy-5-phenyl-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting 2-formyl-5-methoxy-3-phenylbenzoic acid with hydrazine hydrate.

reactant | 2-formyl-5-methoxy-3-phenylbenzoic acid | C(=O)C1=C(C(=O)O)C=C(C=C1C1=CC=CC=C1)OC | C15H12O4
reactant | hydrazine hydrate | O.NN
product | 7-Methoxy-5-phenyl-2H-phthalazin-1-one | COC1=CC(=C2C=NNC(C2=C1)=O)C1=CC=CC=C1 | C15H12N2O2
